US05366987
(c) N-[2,6-Bis(1-methylethyl)phenyl]-2-dodecyl-α,α-diphenyl-2H-tetrazole-5-acetamide
To a THF solution (30 mL) of 5-(diphenylmethyl)-2-dodecyl-2H-tetrazole (1.0 g, 0.0025 mol) at -30° C. under a nitrogen atmosphere with stirring was added n-BuLi (1.62 mL, 1.6M in hexanes, 0.0026 mol). The resulting deep-red solution was stirred for 30 minutes before a THF solution (10 mL) of 2,6-diisopropyl-phenylisocyanate (0.53 mL, 0.0024 mol) was added dropwise over 10 minutes. The resulting yellow solution was allowed to warm to room temperature over 24 hours. Water (10 mL) was then added and the solution partitioned between ethyl acetate and water. The organic extract was washed with water, brine, dried over MgSO4, filtered, and concentrated in vacuo to yield a yellow oil which was flash chromatographed (5% EtOAc-Hex as eluant, SiO2) to yield 1.16 g of the title product as a clear oil.

reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | 5-(diphenylmethyl)-2-dodecyl-2H-tetrazole | 0.0025 mol, 1.0 g | C1(=CC=CC=C1)C(C=1N=NN(N1)CCCCCCCCCCCC)C1=CC=CC=C1 | C26H36N4
reactant | n-BuLi | 0.0026 mol, 1.6M, 1.62 mL | [Li]CCCC
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | 2,6-diisopropyl-phenylisocyanate | 0.0024 mol, 0.53 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | Water | 10 mL | O | H2O
product | N-[2,6-Bis(1-methylethyl)phenyl]-2-dodecyl-α,α-diphenyl-2H-tetrazole-5-acetamide | 1.16 g | CC(C)C1=C(C(=CC=C1)C(C)C)NC(C(C=1N=NN(N1)CCCCCCCCCCCC)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C39H53N5O
